US07829560B2
2-Methyl-5-morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide (Compound B39).
Compound is formed by reacting 5-bromo-2-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide with morpholine under conditions described in general procedure B. 1H NMR (300 MHz, CDCl3) δ 8.33 (d, 1H, J=6.9), 7.85 (t, 2H, J=7.8), 7.61 (s, 1H), 7.54 (m, 2H), 7.34 (m, 2H), 7.19 (d, 1H, J=7.5), 6.88 (d, 1H, J=8.4), 4.33 (t, 2H, J=5.7), 3.88 (t, 4H, J=3.9), 3.75 (t, 4H, J=4.5), 2.95 (m, 6H), 2.66 (t, 4H, J=4.5), 2.63 (s, 3H). MS: 476.2 (M+1).

reactant | 5-bromo-2-methyl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | BrC=1C=CC(=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C1)C | C24H25BrN2O3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-Methyl-5-morpholin-4-yl-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | CC1=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=C(C=C1)N1CCOCC1 | C28H33N3O4
